US07332508B2
{4-[3-((1-Cyclopentylpiperidin-4-yl)methyl)[1,2,4]oxadiazol-5-yl]benzyl}methylamine, Dihydrochloride
The title compound was prepared by a similar procedure to that described in Example 23, starting from 4-[5-(4-chloromethylphenyl)[1,2,4]oxadiazol-3-ylmethyl]-1-cyclopentylpiperidine and methylamine. HPLC: Rt=4.89 min.

reactant | 4-[5-(4-chloromethylphenyl)[1,2,4]oxadiazol-3-ylmethyl]-1-cyclopentylpiperidine | ClCC1=CC=C(C=C1)C1=NC(=NO1)CC1CCN(CC1)C1CCCC1 | C20H26ClN3O
reactant | methylamine | CN | CH5N
product | {4-[3-((1-Cyclopentylpiperidin-4-yl)methyl)[1,2,4]oxadiazol-5-yl]benzyl}methylamine, Dihydrochloride | Cl.Cl.C1(CCCC1)N1CCC(CC1)CC1=NOC(=N1)C1=CC=C(CCN)C=C1 | InChI=1S/C21H30N4O.2ClH/c22-12-9-16-5-7-18(8-6-16)21-23-20(24-26-21)15-17-10-13-25(14-11-17)19-3-1-2-4-19;;/h5-8,17,19H,1-4,9-15,22H2;2*1H
